US07745438B2
3-Butyl-5-fluoro-benzaldehyde
Dissolve 1,3-Dibromo-5-fluoro-benzene (12.00 g, 0.05 mmol) in diethyl ether (470 mL) and cool to −78 C. Slowly add 1.6 M n-butyllithium in hexanes (29.5 mL, 49.6 mmol) and stir at −78 for one hour. Add dimethylformamide (3.45 g, 0.05 mmol) dropwise and warm to room temperature overnight. Quench with saturated aqueous ammonium chloride solution. Separate the layers and extract the organic layer (1×300 mL) with diethyl ether. Combine the organic layers and wash (1×150 mL) with water, (1×100 μL) with saturated aqueous sodium chloride and dry over magnesium sulfate. Purify using medium pressure chromatography (silica gel, 0-10% diethyl ether:hexanes) to give the desired product (4.15 g, 43%) as a yellow liquid.

reactant | 1,3-Dibromo-5-fluoro-benzene | 0.05 mmol, 12.00 g | BrC1=CC(=CC(=C1)F)Br | C6H3Br2F
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | dimethylformamide | 0.05 mmol, 3.45 g | CN(C=O)C | C3H7NO
solvent | diethyl ether | 470 mL | C(C)OCC | C4H10O
product | 3-Butyl-5-fluoro-benzaldehyde | 4.15 g, 43% | C(CCC)C=1C=C(C=O)C=C(C1)F | C11H13FO
